US08084489B2
A solution of diisopropylamine (0.588 mL, 60 mmol) in THF (20 mL) under N2 is cooled to −78° C. and treated with n-butyllithium (2.5 M in hexanes, 1.66 mL). The mixture is then warmed to 0° C. for 10 min, cooled back to −78° C., treated dropwise with a solution of thiophene-2-carboxylic acid ethyl ester (0.5 g, 3.2 mmol) in THF (12 mL), and stirred 5 min. N,N-dimethylformamide (0.324 mL, 4.16 mmol) is then added, and the reaction is allowed to warm to rt, while stirring overnight. Aqueous buffer (pH=7) is added, and the product is extracted into ethyl acetate (3×). Combined organic layers are dried, filtered, and concentrated. The resulting residue is applied to silica gel and eluted using hexanes with an ethyl acetate gradient from 0% to 40% to give 5-formyl-thiophene-2-carboxylic acid ethyl ester (325 mg).

reactant | diisopropylamine | 60 mmol, 0.588 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5 M, 1.66 mL | C(CCC)[Li]
reactant | thiophene-2-carboxylic acid ethyl ester | 3.2 mmol, 0.5 g | C(C)OC(=O)C=1SC=CC1 | C7H8O2S
reactant | N,N-dimethylformamide | 4.16 mmol, 0.324 mL | CN(C=O)C | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 5-formyl-thiophene-2-carboxylic acid ethyl ester | 325 mg | C(C)OC(=O)C=1SC(=CC1)C=O | C8H8O3S
